US07563805B2
Methyl(3R*,4S*)-1-benzyloxycarbonyl-3,4-dimethylpyrrolidine-3-carboxylate
The procedure of Reference Example 2 was repeated by using the thus synthesized methyl(3R*,4S*)-1-benzyl-3,4-dimethylpyrrolidine-3-carboxylate crude product (12.28 g) and benzyl chloroformate (21.3 mL, 149.3 mmol) to obtain 4.23 g (14.52 mmol, 2 steps, 15%) of the title compound as a colorless oil.

reactant | methyl(3R*,4S*)-1-benzyl-3,4-dimethylpyrrolidine-3-carboxylate | C(C1=CC=CC=C1)N1C[C@@]([C@@H](C1)C)(C(=O)OC)C | C15H21NO2
reactant | benzyl chloroformate | 149.3 mmol, 21.3 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | Methyl(3R*,4S*)-1-benzyloxycarbonyl-3,4-dimethylpyrrolidine-3-carboxylate | C(C1=CC=CC=C1)OC(=O)N1C[C@@]([C@@H](C1)C)(C(=O)OC)C | C16H21NO4
